US06156772
Pyridine-3-boronic acid
To a solution of n-butyllithium (16 mL of a 2.5M solution in hexane=50 mL dry diethyl ether) at -78° C. was added a solution of 3-bromopyridine (6 g in 15 mL diethyl ether) and the mixture stirred for 25 minutes. At this time trimethyl borate (4.3 mL) was added and the mixture allowed to warm to room temperature. After 1 hour the reaction was quenched by the addition of 10 mL glacial acetic acid and 60 mL water and the mixture stirred for 18 hours at room temperature. The pH of the mixture was adjusted to pH12 by the addition of 2M sodium hydroxide and extracted with diethyl ether. The aqueous layer was acidified to pH 6 by the dropwise addition of 1N hydrochloric acid and extracted with methylene chloride. The combined organics were dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with 20 mL acetonitrile:water (1:1) and filtered to give the title compound (1.0 g).

reactant | n-butyllithium | C(CCC)[Li]
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
reactant | 3-bromopyridine | 15 mL, 6 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | trimethyl borate | 4.3 mL | B(OC)(OC)OC | C3H9BO3
solvent | hexane | CCCCCC | C6H14
product | Pyridine-3-boronic acid | 1.0 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
